US05620977
Part B. A solution of methyl 2-(methylsulfonylmethyl)acrylate (970 mg, 5.44 mmol) in 15 mL of tetrahydrofuran was treated with a solution of lithium hydroxide (270 mg, 6.4 mmol) in 7 mL of water. The solution was stirred at room temperature for 5 m and then acidified to pH=1 with 1N aqueous potassium hydrogen sulfate and the solution extracted three times with ethyl acetate. The combined ethyl acetate solution was dried over anhydrous magnesium sulfate, filtered, and concentrated to give 793 mg, 89% of 2-(methylsulfonylmethyl) acrylic acid, mp 147°-149 0° C.

reactant | methyl 2-(methylsulfonylmethyl)acrylate | 5.44 mmol, 970 mg | CS(=O)(=O)CC(C(=O)OC)=C | C6H10O4S
reactant | lithium hydroxide | 6.4 mmol, 270 mg | [OH-].[Li+]
reactant | potassium hydrogen sulfate | 1N | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 7 mL | O | H2O
product | 2-(methylsulfonylmethyl) acrylic acid | 793 mg, 89% | CS(=O)(=O)CC(C(=O)O)=C | C5H8O4S
